US07456164B2
N-Boc-4-(2-hydroxy-ethyl)-piperidine (5 g, 21.8 mmol) in THF (25 ml) was added to a suspension of NaH (1.47 g, 43.7 mmol) in THF (75 ml) at 0° C. under N2. The reaction was stirred for 1 hour at 0° C. and MeI (2.72 ml, 43.7 mmol) added slowly. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was quenched with water (100 ml) and extracted with DCM (3×100 ml). The combined DCM layers were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo. The crude reaction (7.5 g) was treated with 3M HCl solution in EtOH (150 ml) for 12 hours. The reaction was concentrated in vacuo and azeotroped with toluene (2×150 ml) to give 4-(2-methoxy-ethyl)-piperidine hydrochloride (3.5 g, 89%) as a pale yellow solid.

reactant | N-Boc-4-(2-hydroxy-ethyl)-piperidine | 21.8 mmol, 5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 43.7 mmol, 1.47 g | [H-].[Na+]
reactant | MeI | 43.7 mmol, 2.72 ml | CI | CH3I
reactant | HCl | 3M | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 4-(2-methoxy-ethyl)-piperidine hydrochloride | 3.5 g, 89% | Cl.COCCC1CCNCC1 | InChI=1S/C8H17NO.ClH/c1-10-7-4-8-2-5-9-6-3-8;/h8-9H,2-7H2,1H3;1H
